Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
presyncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is an  is a ___ year old man with hx of HTN, GERD, 
mild cognitive impairment, with a history of what sounds like 
vasovagal syncope in the past who lives alone; presented with 
presyncope versus syncope while standing for a prolonged period 
at a track meet. Symptoms completely resolved upon arrival to 
the ED but admitted for ? altered mental status. Labs/CXR only 
notable for mild thrombocytopenia (which per prior records tends 
to wax/wane over time and is within his baseline). Head CT was 
negative for bleeding but did show age-related prominence of the 
ventricles and sulci which supports the diagnosis of underlying 
dementia. Admitted for workup of ?altered mental status versus 
progressive dementia. 
 
According to the EMS note, this patient was at a track meet as a 
___ and the patient started having presyncopal symptoms of 
dizziness, nausea, and started leaning against the stands. He 
was assisted to the lying down position by fellow spectators. 
There was no fall and no trauma. The patient stated that he has 
had similar episodes in the past when he stands for long periods 
of time and when he has not had much to eat or drink. He 
admitted to not having much fluid today and that he only ate a 
bowl of cereal this morning. 

He was given 250 cc of fluid prior to coming in by EMS and felt 
much better afterwards. He was essentially asymptomatic in the 
ED and admitted for ?workup. The patient says that he feels 
completely normal. 

Shortly after arrival, in the ED, the resident spoke with his 
son says he has been having some cognitive issues recently. He 
does not carry any formal diagnosis of dementia. Per ED note, 
"The patient lives alone and he is not safe to go home."
   
Upon arrival to the floor, the patient was alone and 
unaccompanied by his son. Per his son, this has happened 
multiple times before. the last time it happened was in the fall 
and seems to coincide when he doesn't eat or drink enough. Also 
when he stands fro prolonged periods of time. ___ said he 
turned around and saw his father leaning on the bleachers and 
asked, "how are you feeling" and the patient said "really 
dizzy". mr ___ was laid down but his son states that he did 
not actually lose consciousness. and "he came right back" as 
soon as they laid him down. Whenever this happens, he gets very 
tired, which he was for a couple hours after the event. 

On a good day, his son says that he plays bridge with his 
friends, which he did on the day prior to admission. He was not 
having any new cognitive difficulties then. His son picked him 
up for the track meet and he seemed normal to him. ___ states 
that he has started to have "signs" of dementia recently which 
have been slowly progressing over the past few months. 

ROS:  
(+) 
(-) He denied any chest pain or shortness of breath. He denies 
any headache. No Back pain, Diaphoresis, Diplopia, Edema, 
Fever/chills,
Headache or ST. No LOC
Remainder of comprehensive 10 point ROS it otherwise negative.

 
Past Medical History:
possible dementia, HTN, and GERD
 
Social History:
___
Family History:
no family history of dementia per the patient
 
Physical Exam:
VS:  97.6 HR: 80 BP: 113/73 RR18 O(2)Sat: 98 room air
GEN: Alert, lying in bed, no acute distress  
HEENT: MMM, anicteric sclera, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Clear, no wheeze, rales, or rhonchi  
COR: RRR, normal S1/S2, no murmurs 
ABD: Soft, NT ND, normal BS  
EXTREM: Warm, no edema  
NEURO: Alert and oriented to person, knows he is in ___ but 
cannot tell me the name of the hospital, when asked the year 
states "16" and date tells me ___ which is correct, 
also knows day of the week. He is a little tangiential - talking 
about how he used to manage track meets long ago" but 
redirectable and answers appropriately. CN II-XII grossly 
intact, motor function grossly normal  

Exam: unchanged
 
Pertinent Results:
___ 03:23PM   K+-4.7
___ 01:05PM   GLUCOSE-107* UREA N-17 CREAT-1.0 SODIUM-139 
POTASSIUM-5.3* CHLORIDE-105 TOTAL CO2-23 ANION GAP-16
___ 01:05PM   estGFR-Using this
___ 01:05PM   WBC-4.6 RBC-4.66 HGB-13.5* HCT-41.1 MCV-88 
MCH-29.0 MCHC-32.8 RDW-14.0 RDWSD-44.6
___ 01:05PM   NEUTS-57.0 ___ MONOS-19.0* EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-2.63 AbsLymp-1.05* AbsMono-0.88* 
AbsEos-0.00* AbsBaso-0.02
___ 01:05PM   PLT SMR-VERY LOW PLT COUNT-72*

EKG: Sinus rhythm at a rate of 70. non ischemic

IMAGING:  
Head CT: There is age-related cortical volume loss with 
prominence of the ventricles and sulci. 

CXR: no consolidations

___ 08:58PM URINE  HOURS-RANDOM SODIUM-115 POTASSIUM-78 
CHLORIDE-112
___ 08:58PM URINE  OSMOLAL-696
___ 08:58PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:58PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:58PM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0 TRANS EPI-<1
___ 08:58PM URINE  MUCOUS-RARE
___ 08:58PM URINE  EOS-NEGATIVE  
___ 03:23PM   K+-4.7
___ 01:05PM   GLUCOSE-107* UREA N-17 CREAT-1.0 SODIUM-139 
POTASSIUM-5.3* CHLORIDE-105 TOTAL CO2-23 ANION GAP-16
___ 01:05PM   VIT B12-981*
___ 01:05PM   TSH-1.7
 
Brief Hospital Course:
Mr. ___ is an  is a ___ year old man with hx of HTN, GERD, and 
?mild cognitive impairment versus dementia who presents with 
presyncope. 

# Pre-syncope: DDX includes vasovagal versus postural 
hypotension (dehydration versus autonomic insufficiency). No 
concerning features to suggest cardiogenic or neurogenic 
syncope. Orthostatic on arrival to floor. No infectious 
symptoms. Repeat orthostatics were normal. Per son, patient has 
___, home ___, ___ and constant attention from family. Walked 
with his nurse and was stable. Held amlodipine.

# Dementia, NOS: Recently started on donepezil. TSH and vit B12 
normal. RPR pending. Per son patient at baseline.

# Thrombocytopenia and Anemia: Long history of platelets and 
anemia and was at baseline. there was no evidence of bleeding.

# Hypertension: Stopped amlodipine at discharge given that it 
could postural hypotension. Continue lisinopril.

Patient to follow up with PCP after discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Donepezil 5 mg PO QHS 
4. Amlodipine 2.5 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Donepezil 5 mg PO QHS 
3. Lisinopril 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Orthostatic hypotension
Hypertension
Mild cognitive decline

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because you felt dizzy. You 
had a work-up with EKGs and CT scan of head which was normal. We 
felt that your dizziness was likely from standing for too long 
and not having enough to drink. It is really important that you 
keep yourself hydrated. You will need to follow up with your 
primary care doctor this coming week. 
 
Followup Instructions:
___